US05866592
The same procedure as in Example 2-(6-2) was performed with N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanine (1.0 g, 3.10 mmol) using ethyl 4-piperidine acetate (1.59 g, 9.31 mmol) to yield an oil of N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid ethyl ester (0.96 g, 65.1%).

reactant | N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanine | 3.10 mmol, 1.0 g | C(#N)C1=CC=C(C(=O)NC(C(C(=O)O)(C)C)C2=CC=CC=C2)C=C1 | C19H18N2O3
reactant | ethyl 4-piperidine acetate | 9.31 mmol, 1.59 g | N1CCC(CC1)CC(=O)OCC | C9H17NO2
product | N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanyl-4-piperidineacetic acid ethyl ester | 0.96 g, 65.1% | C(C)OC(CC1CCN(CC1)C(C(C(NC(C1=CC=C(C=C1)C#N)=O)C1=CC=CC=C1)(C)C)=O)=O | C28H33N3O4
